US05679679
Preparation of (S)-2-(3,4-Dichlorophenylacetyl)-2,5-diazabicyclo[3.0.4]nonane.
The HBr salt of the title product of Example 4 (1.00 g, 3.3 mmol) and 3,4-dichlorophenylacetic acid (1.07 g, 5.2 mmol, 1.5 eq) and DCC (1.43 g, 6.9 mmol, 2.0 eq) were reacted by addition of Et3N (2.4 mL, 5.0 eq) to give the title compound (0.84 g, 92%) as a colorless crystalline solid. The reaction was conducted as follows. To a stirred solution of the dichlorophenylacetic acid in CH2Cl2 (100mL) was added a solution of the DCC in CH2Cl2 (100 mL) and the solution was stirred for 10 min at rt. To the precipitated complex was added the salt of the title compound of Example 4 followed by the Et3N and stirring was continued until TLC (solvent system A) indicated the reaction to be complete. The precipitated DCU was removed by filtration and the filter cake was washed with Et2O (50 mL). The filtrate was diluted with enough Et2O to render the organic layer less dense than the aqueous layer, and the organic extract was then extracted with 10% aqueous citric acid (200 mL) and discarded. The aqueous layer was washed with Et2O (2×200 mL) and the combined washings were discarded. The aqueous layer was basified by addition of excess concentrated aqueous NH3 solution and extracted with CH2Cl2 (2×200 mL). The combined organic layer was washed with water, dried (Na2SO4) and evaporated to give the desired product: mp 102.5°-103.5° C. (2-propanol); 1H-NMR (CDCl3) σ 7.39 (d, J=7.9 Hz, 1H), 7.35 (d, J=2.0 Hz, 1H), 7.09 (d, J=2.0, 7.9 Hz, 1H), 4.67 (dd, Jgem =39 Hz, J=13 Hz, 1H), 3.81 (dd, Jgem =44, J=13 Hz, 1H), 3.68 (d, J=3.8 Hz, 2H), 2.73-3.28 (complex m, 3H), 1.98-2.48 (complex m, 3H), 1.64-1.93 (complex m, 4H), 1.32-1.48 (m, 1H); Anal (calcd for C15 H18Cl2N2O): C 57.52, H 5.79, N 8.94. Found: 57.60, H 5.76, N 8.94.

reactant | HBr | Br | BrH
reactant | 3,4-dichlorophenylacetic acid | 5.2 mmol, 1.07 g, 1.5 eq | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | DCC | 6.9 mmol, 1.43 g, 2.0 eq | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Et3N | 2.4 mL, 5.0 eq | CCN(CC)CC | C6H15N
product | (S)-2-(3,4-Dichlorophenylacetyl)-2,5-diazabicyclo[3.0.4]nonane | 3.3 mmol, 1.00 g | ClC=1C=C(C=CC1Cl)CC(=O)N1[C@@H]2N(CC1)CCCC2 | C15H18Cl2N2O
